US05712303
[5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylsulfonyl-1H-pyrazol-4-yl]-(2,5-dimethylphenyl)methanone
To a solution of 200 mg (0.42 mmol) of [5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylsulfanyl-1H-pyrazol-4-yl]-(2,5-dimethylphenyl)methanone in 10 mL of THF was added 0.176 g (2.10 mmol) of anhydrous sodium bicarbonate followed by a solution of 145 mg (0.42 mmol) of 3-chloroperoxybenzoic acid in 8 mL of THF. After two hours at room temperature, 0.5 g of sodium bicarbonate and an additional 290 mg (0.84 mmol) of 3-chloroperoxybenzoic acid was added. The reaction mixture was heated briefly to 50° C., let cool and stirred overnight at room temperature. The reaction mixture was added to water and the product was extracted into ethyl acetate. The organic extracts were washed with dilute sodium bicarbonate solution and then dried and evaporated. The title compound was crystallized from ether to give 150 mg (70% yield) of colorless crystals, m.p. 193.5°-194.5° C.

reactant | [5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylsulfanyl-1H-pyrazol-4-yl]-(2,5-dimethylphenyl)methanone | 0.42 mmol, 200 mg | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)SC)C(=O)C1=C(C=CC(=C1)C)C | C20H16Cl2F3N3OS
reactant | sodium bicarbonate | 2.10 mmol, 0.176 g | C([O-])(O)=O.[Na+]
reactant | 3-chloroperoxybenzoic acid | 0.42 mmol, 145 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | sodium bicarbonate | 0.5 g | C([O-])(O)=O.[Na+]
reactant | 3-chloroperoxybenzoic acid | 0.84 mmol, 290 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | [5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-3-methylsulfonyl-1H-pyrazol-4-yl]-(2,5-dimethylphenyl)methanone | 150 mg, 70% yield | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)S(=O)(=O)C)C(=O)C1=C(C=CC(=C1)C)C | C20H16Cl2F3N3O3S
